US07319109B2
e) Methyl 3-{[(4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenyl)(methyl)amino]methyl}benzoate
A solution of N-(4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenyl)-N-methylamine (0.45 g, 1.1 mmol) in dimethylformamide (4 mL) was treated with potassium carbonate (0.15 g, 1.1 mmol) followed by methyl 3-(bromomethyl)benzoate (0.25 g, 1.1 mmol). After stirring at ambient temperature for 24 h, the reaction was partitioned with ethyl acetate and water. The organic layer was washed with water (2×50 mL), brine (50 mL), dried over anhydrous magnesium sulfate, filtered and condensed to a residue which was chromatographed on silica gel eluting with 20% ethyl acetate/hexanes. Yield=0.43 g. (70%) of methyl 3-{[(4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenyl)(methyl)-amino]methyl}benzoate.

reactant | N-(4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenyl)-N-methylamine | 1.1 mmol, 0.45 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC(=C(C=C1)NC)C)C(C)C | C21H22Cl2N2O2
reactant | potassium carbonate | 1.1 mmol, 0.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-(bromomethyl)benzoate | 1.1 mmol, 0.25 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | Methyl 3-{[(4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenyl)(methyl)amino]methyl}benzoate | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC(=C(C=C1)N(C)CC=1C=C(C(=O)OC)C=CC1)C)C(C)C | C30H30Cl2N2O4
